US08623862B2
1-(5-Bromo-1H-indol-3-yl)-2,2,2-trifluoroethanone
A solution of 21.3 ml of trifluoroacetic anhydride in 70 ml of ether is added dropwise to a solution of 20 g of 5-bromoindole in 250 ml of ether cooled to −5° C. It is stirred for 2 hours at −5° C. The precipitate formed is drained and is washed with ether. 24.5 g of the expected compound is obtained in the form of a white powder.

reactant | trifluoroacetic anhydride | 21.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 5-bromoindole | 20 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
solvent | ether | 70 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 1-(5-Bromo-1H-indol-3-yl)-2,2,2-trifluoroethanone | 24.5 g | BrC=1C=C2C(=CNC2=CC1)C(C(F)(F)F)=O | C10H5BrF3NO
